* L:\My Drive\Lectures\Postgraduated\Advanced Analog\Slides\SCF\Quarto\Simulation of SC Circuits\Simulations\LTSpice\3rd-order LP\SC_3rd_order_LPF.asc
* Generated by LTspice 24.1.9 for Windows.
X§OA1 0 N005 N002 N007 N001 SOPAMPG Av={A}
X§SC3 N005 N002 N007 N001 SC C={C1} fs={fs} D=0.5
X§SC2 in 0 N010 N007 SC C={C11} fs={fs} D=0.5
X§SC1 in 0 N001 N007 SC C={C12} fs={fs} D=0.5
Vin in 0 AC=1
X§OA2 0 N004 N009 N003 N010 SOPAMPG Av={A}
X§SC5 N009 N004 N010 N003 SC C={C2} fs={fs} D=0.5
X§SC4 N004 out1 0 N001 SC C={C22} fs={fs} D=0.5
X§OA3 0 N006 out1 N008 out2 SOPAMPG Av={A}
X§SC7 N006 out1 N008 out2 SC C={C3} fs={fs} D=0.5
X§SC6 N009 0 out2 N008 SC C={C33} fs={fs} D=0.5
.param A=100000 fs=2e+06 a11=0.0310497 a12=0.0310497 a2=0.0632046 a3=0.0310497
.param C1=3.3e-12 C11=a11*C1 C12=a12*C1 C2=3.3e-12 C22=a2*C2 C3=3.3e-12 C33=a3*C3
.ac dec 101 1k 1MEG
.lib analog.lib
.backanno
.end
