* L:\My Drive\Lectures\Postgraduated\Advanced Analog\Slides\SCF\Quarto\Simulation of SC Circuits\Simulations\LTSpice\3rd-order elliptic LP\3rd-order_elliptic_LP_scaled.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 N003 1p1 N001 1p2 SOPAMPG Av={A}
X§U2 1p1 N003 1p2 N001 SC C={k1*C1} fs={fs} D=0.5
X§U3 0 N005 2p1 N006 2p2 SOPAMPG Av={A}
X§U4 2p1 N005 2p2 N006 SC C={k2*C2} fs={fs} D=0.5
X§U5 0 N004 out1 N002 out2 SOPAMPG Av={A}
X§U6 out1 N004 out2 N002 SC C={C3} fs={fs} D=0.5
X§U8 0 0 1p2 N001 SC C={k1*C12} fs={fs} D=0.5
X§U9 0 0 N001 2p2 SC C={k2*C11} fs={fs} D=0.5
X§U7 in 0 0 N001 SC C={C13} fs={fs} D=0.5
Vin in 0 AC=1
X§U10 0 0 2p2 N002 SC C={k2*C31} fs={fs} D=0.5
X§U11 0 N005 1p2 0 SC C={k1*C21} fs={fs} D=0.5
X§U12 N005 0 0 out2 SC C={C22} fs={fs} D=0.5
X§U14 N004 1p1 N002 1p2 SC C={k1*C33} fs={fs} D=0.5
X§U13 N003 out1 N001 out2 SC C={C14} fs={fs} D=0.5
X§U15 0 0 out2 N002 SC C={C32} fs={fs} D=0.5
.param A=100000 fs=2e+06 a11=0.0305867 a12=0.0305867 a13=0.0611733 b1=0.0707775 a21=0.069483 a22=0.069483 a31=0.0305867 a32=0.0305867 b3=0.0707775
.param C1=3.3e-12 C11=a11*C1 C12=a12*C1 C13=a13*C1 C14=b1*C1
.param C2=C1 C21=a21*C2 C22=a22*C2
.param C3=C1 C31=a31*C3 C32=a32*C3 C33=b3*C3
.param k1=1.29992 k2=2.27899
.ac dec 100 1k 1meg
.lib analog.lib
.backanno
.end
