* L:\My Drive\Lectures\Postgraduated\Advanced Analog\Slides\SCF\Quarto\Simulation of SC Circuits\Simulations\LTSpice\Non-ideal effects\Finite gain\2nd-order_LP.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 N004 N005 N001 N006 SOPAMPG Av={A}
X§U2 0 N002 out1 N003 out2 SOPAMPG Av={A}
X§U3 N005 N004 N006 N001 SC C={C1} fs={fs} D=0.5
X§U4 0 in N001 out2 SC C={C11} fs={fs} D=0.5
Vin in 0 AC=1
X§U5 N002 out1 N003 out2 SC C={C2} fs={fs} D=0.5
X§U6 N002 0 0 N006 SC C={C21} fs={fs} D=0.5
X§U7 0 0 N006 N001 SC C={C12} fs={fs} D=0.5
.param A=1e2 fs=2MEG a1=0.088857 a2=0.044444 C1=1p C2=C1 C11=a1*C1 C12=a1*C1 C21=a2*C1
.ac dec 1001 1k 1MEG
.lib analog.lib
.backanno
.end
