* Third-order SC LP Filter
XOA1 0 N005 N002 N007 N001 SOPAMPG Av_val={A}
XSC1 N005 N002 N007 N001 SC C_val={C1} fs_val={fs} D_val={D} delay_order={order}
XSC2 in 0 N010 N007 SC C_val={C11} fs_val={fs} D_val={D} delay_order={order}
XSC3 in 0 N001 N007 SC C_val={C12} fs_val={fs} D_val={D} delay_order={order}
XOA2 0 N004 N009 N003 N010 SOPAMPG Av_val={A}
XSC4 N009 N004 N010 N003 SC C_val={C2} fs_val={fs} D_val={D} delay_order={order}
XSC5 N004 out1 0 N001 SC C_val={C22} fs_val={fs} D_val={D} delay_order={order}
XOA3 0 N006 out1 N008 out2 SOPAMPG Av_val={A}
XSC6 N006 out1 N008 out2 SC C_val={C3} fs_val={fs} D_val={D} delay_order={order}
XSC7 N009 0 out2 N008 SC C_val={C33} fs_val={fs} D_val={D} delay_order={order}
Vin in 0 DC=0 AC=1

.subckt SC 1p1 2p1 1p2 2p2 C_val=1p fs_val=1MEG D_val=0.5 delay_order=5
* SC capacitors of value C_val with sampling frequency fs_val
* The circuit uses a transconductor of value Gmeq and delayed by DT=D*T
* Because LAPLACE is not available in ngspice we use XSpice s_xfer
* The latter implements a transfer function corresponding to a rational function in s
* The function below implements a nth-order approximation of a constant delay exp(-s*DT)
* The order is set by parameter delay_order
.param Req={1/(fs_val*C_val)} Gmeq={1/Req}
* Order 5
.if(delay_order=5)
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 30 -420 3360 -15120 30240]
+ den_coeff = [1 30 420 3360 15120 30240]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 30 -420 3360 -15120 30240]
+ den_coeff = [1 30 420 3360 15120 30240]
+ denormalized_freq={fs_val/(1-D_val)} )
* Order 4
.elseif(delay_order=4)
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [1 -20 180 -840 1680]
+ den_coeff = [1 20 180 840 1680]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [1 -20 180 -840 1680]
+ den_coeff = [1 20 180 840 1680]
+ denormalized_freq={fs_val/(1-D_val)} )
* Order 3
.elseif(delay_order=3)
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 12 -60 120]
+ den_coeff = [1 12 60 120]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 12 -60 120]
+ den_coeff = [1 12 60 120]
+ denormalized_freq={fs_val/(1-D_val)} )
* Order 2
.elseif(delay_order=2)
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [1 -6 12]
+ den_coeff = [1 6 12]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [1 -6 12]
+ den_coeff = [1 6 12]
+ denormalized_freq={fs_val/(1-D_val)} )
* Order 1
.else
.model delay1 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 2]
+ den_coeff = [1 2]
+ denormalized_freq={fs_val/D_val} )
.model delay2 s_xfer (
+ gain = {Gmeq}
+ int_ic = [0 0 0]
+ num_coeff = [-1 2]
+ den_coeff = [1 2]
+ denormalized_freq={fs_val/(1-D_val)} )
.endif
R1 1p1 2p1 {Req}
A1 %vd 1p2 2p2 %id 2p1 1p1 delay1
R2 1p2 2p2 {Req}
A2 %vd 1p1 2p1 %id 2p2 1p2 delay2
.ends SC

.subckt SOPAMPG in+ in-p1 outp1 in-p2 outp2 Av_val=1e5
E1 outp1 0 in+ in-p1 {Av_val}
Ro1 outp1 0 1G
E2 outp2 0 in+ in-p2 {Av_val}
Ro2 outp2 0 1G
.ends SOPAMPG
